US08071600B2
1-hydroxybenzotriazole (0.53 g, 3.5 mmol), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (WSC) (0.67 g, 3.5 mmol) and 2,2,2-trifluoroethyl amine (0.51 ml. 6.35 mmol) were added to a dichloromethane solution (5 ml) of 4-chloropyridine-2-carboxylic acid (0.5 g, 3.17 mmol) and the mixture was stirred at room temperature for one hour. Water was added to the reaction solution, which was then extracted with ethyl acetate. The extraction solution with ethyl acetate was dried over magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (n-hexane:ethyl acetate=11:1→5:1). The purified product was concentrated to dryness under reduced pressure to obtain N-(2,2,2-trifluoroethyl)-4-chloropyridine-2-carboxamide (435 mg) as white powder.

reactant | 1-hydroxybenzotriazole | 3.5 mmol, 0.53 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 3.5 mmol, 0.67 g | Cl.CN(CCCN=C=NCC)C
reactant | 2,2,2-trifluoroethyl amine | 6.35 mmol, 0.51 ml | FC(CN)(F)F | C2H4F3N
reactant | 4-chloropyridine-2-carboxylic acid | 3.17 mmol, 0.5 g | ClC1=CC(=NC=C1)C(=O)O | C6H4ClNO2
solvent | Water | O | H2O
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | N-(2,2,2-trifluoroethyl)-4-chloropyridine-2-carboxamide | 435 mg | FC(CNC(=O)C1=NC=CC(=C1)Cl)(F)F | C8H6ClF3N2O
